US05310743
(2R*,4S*)-2-Benzyl-1-(2,6-dichlorobenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 35a with 91 μl (0.655 mmol) of triethylamine and 80 μl (0.561 mmol) of 2,6-dichlorobenzoyl chloride to give the title compound (158 mg, 56%). TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.62, FD-MS: M+ =599, 601.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | triethylamine | 0.655 mmol, 91 μl | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 0.561 mmol, 80 μl | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
product | (2R*,4S*)-2-Benzyl-1-(2,6-dichlorobenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 158 mg, 56% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C1=C(C=CC=C1Cl)Cl)=O | C31H26Cl2F3N3O2
